US06897208B2
A suspension of sodium hydride (4.44 g, 60% dispersion in mineral oil) in dimethyl formamide (50 ml), at 0° C., was treated dropwise with ethyl-4-chloroacetoacetate (5 ml) and then with tert-butyl alcohol (7.08 ml). This mixture was maintained at 0° C. for 2 hours, then a further 2 hours at ambient temperature and then poured onto 2N hydrochloric acid/ice and then extracted four times with ethyl acetate. The combined extracts were washed with saturated aqueous sodium hydrogen carbonate solution, then with water, then with brine, then dried over magnesium sulfate and then evaporated. The resulting yellow oil was subjected to flash column chromatography on silica eluting with a mixture of ethyl acetate and petrol (1:9, v/v) to give 4-tert-butoxy-3-oxo-butyric acid ethyl ester (5.20 g) as a yellow oil. TLC (silica, 1:4, v/v ethyl acetate/petrol): RF=0.51. NMR (400 MHz, CDCl3): δ 1.21(9H, s), 1.28(3H, t), 3.55(2H, s), 4.19(2H, q).

reactant | sodium hydride | 4.44 g | [H-].[Na+]
reactant | ethyl-4-chloroacetoacetate | 5 ml | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | tert-butyl alcohol | 7.08 ml | C(C)(C)(C)O | C4H10O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-tert-butoxy-3-oxo-butyric acid ethyl ester | 5.20 g | C(C)OC(CC(COC(C)(C)C)=O)=O | C10H18O4
